US08012972B2
N-(2-t-Butoxycarbonylaminophenyl)-6-hydroxymethylpyridine-3-carboxylic acid amide (Reference Compound No. 11-1)
2-Aminophenyl carbamic acid t-butyl ester (Reference Compound No. 1-1, 0.60 g, 2.9 mmol), N,N-diisopropylethylamine (1.5 mL, 8.6 mmol), and HATU (1.1 g, 2.9 mmol) were added to a suspension of 6-hydroxymethylpyridine-3-carboxylic acid (Reference Compound No. 10-1) in DMF (10 mL), and then the reaction mixture was stirred at room temperature for 2 hours. Water (200 mL) was added thereto, the whole was extracted with ethyl acetate (100 mL, 50 mL), and then the organic layer was washed with brine (100 mL) twice. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 0.66 g of the title reference compound as a brown oil. (Yield 67% in 2 steps)

reactant | 2-Aminophenyl carbamic acid t-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)N)=O | C11H16N2O2
reactant | N,N-diisopropylethylamine | 8.6 mmol, 1.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 2.9 mmol, 1.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-hydroxymethylpyridine-3-carboxylic acid | OCC1=CC=C(C=N1)C(=O)O | C7H7NO3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | 200 mL | O | H2O
product | N-(2-t-Butoxycarbonylaminophenyl)-6-hydroxymethylpyridine-3-carboxylic acid amide | Yield 67% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)C=1C=NC(=CC1)CO | C18H21N3O4
